* OPA1652 — BEHAVIORAL SUBSTITUTE, not the TI macromodel.
* TI's SPICE model is behind a click-through licence (ti.com/product/OPA1652 ->
* "Design tools & simulation"). Drop it in this directory as opa1652_ti.lib and
* set OPAMP_MODEL=ti in ../validate/config.py to use it instead.
*
* Parameters from the OPA1652 datasheet (SBOS477): GBW 18 MHz, slew 10 V/us,
* Aol 120 dB, rail-to-rail output (~60 mV from the rails at light load),
* differential input capacitance ~8 pF (JFET input, bias current negligible).
* Single dominant pole, slew limited by clamping the gm-stage current, output
* hard-limited at the rails. No noise, no offset, no output current limit.
.subckt OPA1652_BEHAV inp inn vcc vee out
.param GBW=18e6 AOL=1e6 SR=10e6 CIN=8p ROUT=20 VSAT=0.06 GM=1e-3
.param C1={GM/(2*3.14159265*GBW)}
.param R1={AOL/GM}
.param IMAX={SR*C1}
Cin  inp inn {CIN}
Rin  inp inn 1e12
Emid mid 0 VALUE={0.5*(V(vcc)+V(vee))}
* gm stage into the dominant pole, tanh-limited current gives the slew limit
Bgm  mid n1 I={IMAX*tanh(GM*V(inp,inn)/IMAX)}
R1   n1 mid {R1}
C1   n1 mid {C1}
* anti-wind-up: hold the integrator node near the rails so overload recovery is
* immediate (a real output stage saturates; it does not keep integrating)
Vclh clh vcc {-VSAT+0.05}
Vcll cll vee {VSAT-0.05}
Dclh n1 clh DCLAMP
Dcll cll n1 DCLAMP
.model DCLAMP D(IS=1e-12 N=0.2 RS=1)
* rail-to-rail output stage
Bout outi 0 V={max(min(V(n1), V(vcc)-VSAT), V(vee)+VSAT)}
Rout outi out {ROUT}
.ends OPA1652_BEHAV
